US06011044
Preparation of 1-(2-methyl-4-benzyloxyphenyl)-4-[(2-hydroxyethyl)amino]-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline
4-Oxo-6-β,β,β-trifluoroethoxy-2,3,4,5-tetrahydrofuro[3,2-c]quinoline(5.7 g, 20.0 mmol) was dissolved in diethylene glycol(70 ml) and crude 4-benzyloxy-2-methyl aniline(5.6 g, 26.0 mmol) was added. The reaction mixture was refluxed at 250° C. for 15 hours. The reaction mixture was dissolved in water, extracted with dichloromethane, and the organic layer was washed with water for 3 times. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography(ethyl acetate:dichloromethane=1:1) to obtain 4.5 g of desired compound as solid in 47% of yield.

reactant | 4-Oxo-6-β,β,β-trifluoroethoxy-2,3,4,5-tetrahydrofuro[3,2-c]quinoline | 20.0 mmol, 5.7 g | O=C1NC=2C(=CC=CC2C2=C1CCO2)OCC(F)(F)F | C13H10F3NO3
reactant | 4-benzyloxy-2-methyl aniline | 26.0 mmol, 5.6 g | C(C1=CC=CC=C1)OC1=CC(=C(N)C=C1)C | C14H15NO
solvent | diethylene glycol | 70 ml | C(COCCO)O | C4H10O3
solvent | water | O | H2O
product | 1-(2-methyl-4-benzyloxyphenyl)-4-[(2-hydroxyethyl)amino]-6-β,β,β-trifluoroethoxy-2,3-dihydropyrrolo[3,2-c]quinoline | 4.5 g | CC1=C(C=CC(=C1)OCC1=CC=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)OCC(F)(F)F)NCCO | C29H28F3N3O3
